US07018997B2
Step 1: Preparation of 8-(hydroxymethyl)dibenzo[b,f][1,4]oxazepin-[(10H)-one.
Lithium aluminum hydride (11 mL, 11 mmole) was slowly added to the solution of 11-Oxo-10,11-dihydro-dibenzo[b,f][1,4]oxazepine-8-carboxylic acid methyl ester (1.346 g, 5 mmole) in THF under N2 at room temperature. The reaction mixture was stirred for 1 hour and 45 minutes then quenched with 2N of HCl until the pH value reaches 2–3. Removed all the THF by rotary evaporation, and extracted the reaction mixture with ethyl acetate for five times, dried the organic layer with sodium sulfate and filtered and concentrated. Obtained the desired compound (white solid) in 46% yield.

reactant | Lithium aluminum hydride | 11 mmole, 11 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 11-Oxo-10,11-dihydro-dibenzo[b,f][1,4]oxazepine-8-carboxylic acid methyl ester | 5 mmole, 1.346 g | COC(=O)C1=CC2=C(OC3=C(C(N2)=O)C=CC=C3)C=C1 | C15H11NO4
solvent | THF | C1CCOC1 | C4H8O
product | 8-(hydroxymethyl)dibenzo[b,f][1,4]oxazepin | 46% yield | OCC1=CC2=C(OC3=C(C=N2)C=CC=C3)C=C1 | C14H11NO2
